Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[C:13]([H:14])[H:15].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],5.22028826661
[H:1][O:2][C:3][C:8]([C:6](=[C:4][H:5])[H:7])([H:9])[H:10]>>[H:1][O:2][C:3]1=[C:4]([H:5])[C:6]([H:7])[C:8]1([H:9])[H:10],-2.83397091609
[C:1]#[C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[C:1].[C:2]=[C:3]([H:4])[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[H:11],7.28969135151
[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([O:7][H:8])=[C:9]([H:10])[H:11]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6](=[O:7])[C:9]([H:10])[H:11].[H:8],3.84819050022
[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][O:2][C:3]#[C:4][C:5]([H:6])[H:7],3.78102293784
[H:1][C:2]=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12][C:13]([H:14])([H:15])[H:16].[H:3]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12][C:13]([H:14])([H:15])[H:16],-4.97284845313
[H:1][O:2][C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:12].[H:1][O:2][C:3][C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])=[C:10][H:11],4.98058813775
[H:1][O:2]/[C:3]([H:4])=[C:5]1/[C:6]([H:7])([H:8])[C@:9]1([H:10])[C:11]([H:12])[H:13]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-0.577878275811
[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12]>>[C:1].[C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12],3.57636958076
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:15].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14],4.6223950704500005
[H:1][C:2]=[C:3]([H:4])[C:6]([H:7])=[C:8]([H:9])[H:10].[H:5]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10],-1.27804977015
[H:12].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]=[C:13]([H:14])[H:15]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],-4.65089155188
[C:1]#[C:2][C:3]([H:4])=[C:5]([O:6][H:7])[O:8][H:9]>>[C:1]#[C:2][C:3]([H:4])[C:5]([O:6][H:7])=[O:8].[H:9],2.41719265067
[H:10].[H:1][C:2]=[C:3]([H:4])[C:5]#[C:6][O:7][C:8][H:9]>>[H:1][C:2]=[C:3]([H:4])[C:5]#[C:6][O:7][C:8]([H:9])[H:10],-4.325833848309999
[H:1].[O:2]=[C:3][O:4][C:5]#[C:6][C:7]([H:8])([H:9])[H:10]>>[H:1][O:2][C:3][O:4][C:5]#[C:6][C:7]([H:8])([H:9])[H:10],-2.64931802285
[H:1][C:2]([H:3])([H:4])[C:5]1=[C:6][O:7][C:8][C:9]1([H:10])[H:11]>>[H:1][C:2]([H:3])([H:4])[C:5](=[C:6])[C:9]([C:8]=[O:7])([H:10])[H:11],-0.163186590889
[C:11]([H:12])[H:13].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-5.26625268
[C:1]=[C:2]([H:3])[H:4].[C:5]([H:6])([H:7])[O:8][H:9]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][H:9],-0.91678553465
[H:1][C:2]([H:3])[O:4][C:5]#[C:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:11].[H:1][C:2]([H:3])[O:4][C:5]#[C:6][C:7]([H:8])=[C:9][H:10],5.06142432749
[H:15].[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[C:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1]/[C:2]([C:3][C:4]([H:5])([H:6])[H:7])=[C:8]\[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.50885082607
[O:1]=[C:2]([H:3])[C:4](=[C:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:2]([H:3])[C:4](=[C:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:1],7.791897265039999
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7][C:10]([H:11])([H:12])[H:13].[O:8][H:9]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([O:8][H:9])[C:10]([H:11])([H:12])[H:13],-6.27998122053
[C:5]([H:6])([H:7])[H:8].[H:1][O:2][C:3]#[C:4][C:9]([H:10])([H:11])[O:12][H:13]>>[H:1][O:2]/[C:3]=[C:4](/[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13],-1.95611559424
[C:6]([H:7])([H:8])[H:9].[H:1][C:2]([H:3])([H:4])[C:5][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.59186092616
[C:10]([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-4.823991125919999
[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])=[C:9][H:10]>>[C:4]([H:5])[O:6][C:7]([H:8])=[C:9][H:10].[O:1]=[C:2][H:3],3.85576602388
[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16].[H:1][C:2]([H:3])=[O:4]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16],-0.72493951
[H:1][C:2]([H:3])[O:4][C:5]#[C:6][O:7][C:8]([H:9])[H:10]>>[H:1][C:2]([H:3])[O:4][C:5]#[C:6].[O:7]=[C:8]([H:9])[H:10],0.990462302129
[C:4]([H:5])([H:6])[C:7]([O:8][H:9])=[C:10]([H:11])[H:12].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([O:8][H:9])=[C:10]([H:11])[H:12],-0.825414264752
